US08114887B2
To a 0° C. solution of 0.86 g (2.2 mmol) ethyl 4-[acetyl(3-fluorophenyl)amino]-1-benzylpiperidine-4-carboxylate in 1 mL THF was added 3.2 mL (6.5 mmol, 2M solution in heptane, THF, ethylbenzene) lithium diisopropylamide solution and the reaction mixture was allowed to slowly warm to rt and stirred for an additional 14 hr. To this mixture was added 50 mL water and 50 mL EtOAc and the pH was adjusted to pH=6 with 1N HCl (approx 11 mL). The aqueous layer was extracted 3×100 mL EtOAc and the combined extracts washed with 100 mL brine, dried over MgSO4, filtered, and concentrated to give 8-benzyl-1-(3-fluorophenyl)-1,8-diazaspiro[4.5]decane-2,4-dione as a solid. 1H NMR (CDCl3, 400 MHz) δ 7.44 (ddd, J=8.06, 8.06 and 6.23 Hz, 1H); 7.14-7.30 (m, 6H); 6.95 (br d, J=7.88 Hz, 1H); 6.89 (ddd, J=9.16, 2.02, and 2.02 Hz, 1H); 3.52 (s, 2H); 3.26 (s, 2H); 2.73 (m, 2H); 2.65 (m, 2H); 1.85 (br m, 4H). Electrospray mass spectrum M+H=353.1

reactant | ethyl 4-[acetyl(3-fluorophenyl)amino]-1-benzylpiperidine-4-carboxylate | 2.2 mmol, 0.86 g | C(C)(=O)N(C1(CCN(CC1)CC1=CC=CC=C1)C(=O)OCC)C1=CC(=CC=C1)F | C23H27FN2O3
reactant | lithium diisopropylamide | 6.5 mmol, 2M, 3.2 mL | C(C)(C)[N-]C(C)C.[Li+]
reactant | water | 50 mL | O | H2O
reactant | HCl | 1N, approx 11 mL | Cl | ClH
solvent | THF | 1 mL | C1CCOC1 | C4H8O
solvent | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
product | 8-benzyl-1-(3-fluorophenyl)-1,8-diazaspiro[4.5]decane-2,4-dione | C(C1=CC=CC=C1)N1CCC2(C(CC(N2C2=CC(=CC=C2)F)=O)=O)CC1 | C21H21FN2O2
